US07365085B2
a. 2,2-Dimethyl-3-(3-benzyloxyphenyl)propionic acid
A solution of diisopropylamine (1.55 mL, 11.9 mmole) in 20 mL of THF was cooled to −78° and treated with n-BuLi (6.5 mL 1.6N solution in hexane, 10.4 mmole). After 10 minutes, a solution of isobutyric acid (436 mg, 4.96 mmole) in 3 mL of THF was added, followed by HMPA (1.74 mL, 10 mmole). The reaction was allowed to warm to 23°, then heated at 55° for 30 minutes. The reaction was cooled to −78° and a solution of 3-benzyloxybenzyl chloride (1.15 g, 4.96 mmole) in 6 mL of THF was added. The reaction was warmed to 23° for 30 minutes, then heated at 55° for 30 minutes. The reaction was cooled, diluted with H2O, acidified with 3N HCl, and extracted with Et2O. The extracts were washed three times with H2O, dried and the solvent removed, and gave the titled compound as a white powder, 1.2 g (85% yield). MS (ESI) 285 (MH+).

reactant | diisopropylamine | 11.9 mmole, 1.55 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 10.4 mmole, 1.6N, 6.5 mL | [Li]CCCC
reactant | isobutyric acid | 4.96 mmole, 436 mg | C(C(C)C)(=O)O | C4H8O2
reactant | HMPA | 10 mmole, 1.74 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 3-benzyloxybenzyl chloride | 4.96 mmole, 1.15 g | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1 | C14H13ClO
reactant | HCl | 3N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 2,2-Dimethyl-3-(3-benzyloxyphenyl)propionic acid | 85% yield | CC(C(=O)O)(CC1=CC(=CC=C1)OCC1=CC=CC=C1)C | C18H20O3
